US05258529
56.53 Grams of 2,3-dichloro-1-propene were added dropwise to a mixture of 25.00 g of cyclohexanone, 75 g of toluene, 100 g of 5% acetic acid and 34.35 g of zinc powder at 45° C., and then the mixture was allowed to react at the same temperature for 3 hours. After the reaction was completed zinc-derived insolubles were filtered off, and the resultant filtrate was subjected to separation. The organic phase was washed with a 7% sodium carbonate aqueous solution and dried over sodium sulfate. The desiccant was filtered off, and then the toluene was distilled off under reduced pressure to give 44.05 g of 1-(2'-chloroallyl)-1-cyclohexanol. The results were as follows.

reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
reactant | cyclohexanone | 25.00 g | C1(CCCCC1)=O | C6H10O
reactant | toluene | 75 g | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 34.35 g | [Zn] | Zn
solvent | acetic acid | 100 g | C(C)(=O)O | C2H4O2
product | 1-(2'-chloroallyl)-1-cyclohexanol | 44.05 g, Yield 99.0% | ClC(CC1(CCCCC1)O)=C | C9H15ClO
